US05023253
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl -6-[(Tetrahydro-4H-pyran-4-yl)oxy]azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate
A solution of mitomycin A (100 mg) in 2 ml of tetrahydro-4H-pyran-4-ol was stirred at room temperature and under nitrogen for 45 minutes with 500 mg of a 1.6% solution of KOH in tetrahydro-4H-pyran-4-ol. The reaction mixture was diluted with a little ether and then decomposed with dry ice. Additional ether was added and the solid that deposited (42 mg) was filtered off and discarded. The pink filtrate was concentrated under reduced pressure and the residue was isolated twice on a silica gel plate, using 20% of tetrahydrofuran in ether as a solvent in the first isolation and 15% of acetone in ether in the second isolation. This procedure gave 25 mg (21%) of the title compound, having a melting point of 115°-120° C. (decomposition) and providing the following analysis:

reactant | mitomycin A | 100 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | KOH | [OH-].[K+]
reactant | dry ice | C(=O)=O | CO2
reactant | acetone | CC(=O)C | C3H6O
reactant | tetrahydro-4H-pyran-4-ol | 2 ml | O1CCC(CC1)O | C5H10O2
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl -6-[(Tetrahydro-4H-pyran-4-yl)oxy]azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate | 25 mg, 21% | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)OC1CCOCC1)C)=O)CC1C2N1)OC | InChI=1S/C19H24N2O6.CH3NO2/c1-9-15(23)14-13(16(24)17(9)27-10-3-5-26-6-4-10)11(8-22)19(25-2)18-12(20-18)7-21(14)19;2-1(3)4/h10-12,18,20,22H,3-8H2,1-2H3;2H2,(H,3,4)
